US08877801B2
To a solution of (E)-methyl 3-(5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylate (0.096 g, 0.215 mmol) in DCM (2.145 mL) at room temperature was added BBr3 (1.0 M in heptane, 0.858 mL, 0.86 mmol) and the reaction was stirred at room temperature for 30 min. Upon completion the reaction was quenched with MeOH (2.0 mL) and stirred for 10 min at room temperature then concentrated in vacuo onto silica gel then purified by column chromatography (SiO2, 0-20% MeOH/DCM) to afford (E)-methyl 3-(5-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylate. LC/MS (m/z, MH+): 420.3.

reactant | (E)-methyl 3-(5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylate | 0.215 mmol, 0.096 g | COC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)/C=C/C(=O)OC)C2=CC=C(C=C2)OC)C1 | C25H21NO5S
reactant | BBr3 | 0.86 mmol, 1.0 M, 0.858 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 2.145 mL | C(Cl)Cl | CH2Cl2
product | (E)-methyl 3-(5-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylate | OC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)/C=C/C(=O)OC)C2=CC=C(C=C2)O)C1 | C23H17NO5S
